US04788206
As in Example 134, a solution of (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (1.63 g) and alpha,alpha-dimethyl-3-pyridinebutanamine (0.9 mL) in tetrahydrofuran (20 mL) was stirred for 29 hours at reflux and was then worked up in the usual manner. The crude amide was crystallized from ethyl acetate-hexane to furnish 1.6 g of (E)-5,5-bis(3-fluorophenyl)-N-[l,1-dimethyl-4-(3-pyridinyl)butyl]-2,4-pentadienamide mp 135°-136° C.

reactant | (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 1.63 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC(=CC=C1)F)C1=CC(=CC=C1)F)=O | C23H15F2NO4
reactant | alpha,alpha-dimethyl-3-pyridinebutanamine | 0.9 mL | CC(CCCC=1C=NC=CC1)(N)C | C11H18N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-5,5-bis(3-fluorophenyl)-N-[l,1-dimethyl-4-(3-pyridinyl)butyl]-2,4-pentadienamide | 1.6 g | FC=1C=C(C=CC1)C(=C/C=C/C(=O)NC(CCCC=1C=NC=CC1)(C)C)C1=CC(=CC=C1)F | C28H28F2N2O
